US06531491B1
A solution of 476 mg (1.0 mmol) of 6-iodo-3-styryl-1-[2-(trimethyl-silanyl)ethoxymethyl]-1H-indazole, from Example 14 step (i), in dioxane (3 ml, degassed by sonication and bubbling argon), Pd(PPh3)4 (23 mg, 0.05 mmol), phenylboronic acid (302 mg, 2.5 mmol), and Na2CO3 (1.25 ml of a 2M aqueous solution, degassed as above) was heated at 90° C. for 2 h. The solution was then diluted with ethyl acetate (100 ml) and washed with brine (2×20 ml). The organic layer was dried over MgSO4, and concentrated under reduced pressure. Purification by silica gel chromatography gave of 6-phenyl-3-styryl-1-[2-(trimethyl-silanyl)ethoxymethyl]-1H-indazole as a brown oil (345 mg, 81%). 1H NMR (300 MHz, CDCl3) δ 8.09 (dd, 1H, J=8.5, 0.7 Hz), 7.75 (s, 1H), 7.70 (d, 1H, J=7.0 Hz), 7.64-7.58 (m, 2H), 7.56-7.51 (m, 2H), 7.50-7.45 (m, 2H), 7.45-7.36 (m, 4H), 7.34-7.27 (m, 1H), 5.80 (s, 2H), 3.73 (t, 2H, J=8.3 Hz), 1.12 (t, 2H, J=8.3 Hz).

reactant | 6-iodo-3-styryl-1-[2-(trimethyl-silanyl)ethoxymethyl]-1H-indazole | 1.0 mmol, 476 mg | IC1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C=CC1=CC=CC=C1 | C21H25IN2OSi
reactant | phenylboronic acid | 2.5 mmol, 302 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 0.05 mmol, 23 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-phenyl-3-styryl-1-[2-(trimethyl-silanyl)ethoxymethyl]-1H-indazole | 345 mg, 81% | C1(=CC=CC=C1)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C=CC1=CC=CC=C1 | C27H30N2OSi
